US06599902B2
A mixture of (R)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (2 g, 9.3 mmol), EDAC (3.5 g, 16 mmol), HOBt (1.4 g, 18 mmol), TEA (2.5 mL) and piperidin-4-ol (1.8 g, 16 mmol) in DMF (20 mL) was stirred at rt for 20 hours. The reaction was diluted with water and sodium bicarbonate, extracted with 5% methanol in DCM. The DCM was concentrated and purified on a silica gel column to give 2.6 g of (R)-2-(4-hydroxy-piperidine-1-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | (R)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 9.3 mmol, 2 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)O | C10H17NO4
reactant | EDAC | 16 mmol, 3.5 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 18 mmol, 1.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | piperidin-4-ol | 16 mmol, 1.8 g | N1CCC(CC1)O | C5H11NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (R)-2-(4-hydroxy-piperidine-1-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.6 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)N1CCC(CC1)O | C15H26N2O4
